US04119710
1-(4'-Amino-3',5'-dicyano-phenyl)-2-cyclopentylamino-ethanol,
m.p. of the hydrochloride: 214°-216° C., was prepared from 4'-amino-2-cyclopentylamino-3',5'-dicyano-acetophenone analogous to Example 48.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-2-cyclopentylamino-3',5'-dicyano-acetophenone | NC1=C(C=C(C=C1C#N)C(CNC1CCCC1)=O)C#N | C15H16N4O
product | 1-(4'-Amino-3',5'-dicyano-phenyl)-2-cyclopentylamino-ethanol | NC1=C(C=C(C=C1C#N)C(CNC1CCCC1)O)C#N | C15H18N4O
